2109-11-03 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Admitted and started on Levofloxacin, Metoprolol, Lasix IV,
   Prednisone
   - PS weaned from 10 --> 5, now currently on [**4-30**]%, rr 20's satting
   95%
   - Given 25mg Lopressor at 7pm, sbp down to 80's --> stopped Propofol,
   d/c'd Captopril, held Lasix, 250cc bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-2**] 12:00 AM
   Ciprofloxacin - [**2109-11-2**] 12:03 PM
   Cefipime - [**2109-11-2**] 02:13 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-2**] 12:00 PM
   Metoprolol - [**2109-11-2**] 02:13 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-2**] 10:00 PM
   Famotidine (Pepcid) - [**2109-11-3**] 12:17 AM
   Midazolam (Versed) - [**2109-11-3**] 05:00 AM
   Fentanyl - [**2109-11-3**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-3**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 114 (65 - 114) bpm
   BP: 152/37(77) {84/23(39) - 161/45(85)} mmHg
   RR: 15 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.1 kg (admission): 66 kg
             Total In:
                                                                  2,358 mL
                                                                    294 mL
   PO:
             TF:
                                                                    330 mL
                                                                    116 mL
   IVF:
                                                                  1,938 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    243 mL
   Urine:
                                                                    893 mL
                                                                    243 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 476 (325 - 625) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 33
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.34/57/110/29/3   ([**2109-11-3**] at 1am)
   Ve: 9 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Intubated, responsive to external stimuli but doesn
t open eyes to
   voice or follow commands. Does not appear to be in pain. Lungs with
   upper airway breath sounds and fair air movement. S1 S2 clear with what
   sounds like systolic and slight diastolic murmur best at RUSB and LLSB.
   Abd soft NT ND, no grimacing when palpated. L arm in cast. No BLE
   edema.
   Labs / Radiology
   246 K/uL
   8.4 g/dL
   124 mg/dL
   1.9 mg/dL   (1.8, 1.4, 1.8)
   29 mEq/L
   3.8 mEq/L
   35 mg/dL  (26, 22, 25)
   107 mEq/L
   143 mEq/L
   26.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-11-1**]  05:00 PM
                             [**2109-11-1**]  06:36 PM
                             [**2109-11-1**]  09:39 PM
                             [**2109-11-1**]  09:41 PM
                             [**2109-11-2**]  03:01 AM
                             [**2109-11-2**]  03:26 AM
                             [**2109-11-2**]  11:38 AM
                             [**2109-11-2**]  02:21 PM
                             [**2109-11-3**]  12:44 AM
                             [**2109-11-3**]  12:55 AM
   WBC
   11.0
   11.4
   9.5
   Hct
   30.8
   27.6
   26.7
   Plt
   299
   289
   246
   Cr
   1.8
   1.9
   TropT
   0.02
   TCO2
   33
   31
   33
   32
   31
   32
   Glucose
   109
   114
   123
   124
   Other labs: PT / PTT / INR:13.7/51.6/1.2   (this am) , CK / CKMB /
   Troponin-T:/2/0.02   ([**11-1**]) , Alk Phos / T Bili:/0.4  ([**11-2**]) ,
   Differential-Neuts:92.5 %, Lymph:3.2 %, Mono:4.0 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:196 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Fluid analysis / Other labs: iron 13 ([**11-2**])
   transferrin/TIBC low
   ferritin normal
   retic count 2.7
   folate, B12 normal
   haptoglobin normal
   Imaging: [**11-2**] CXR
   FINDINGS: The left lateral parts of the thorax are not included in the
   image.
   Newly inserted left-sided central venous access line over the internal
   jugular
   vein. The tip of the line projects over the upper SVC. The tip of the
   newly
   inserted Dobbhoff catheter projects over the middle parts of the
   stomach.
   There is no evidence of complication, notably no pneumothorax.
   Positional
   blunting of the right costophrenic sinus, presence of a small right
   pleural
   effusion cannot be excluded.
   [**11-2**] CT chest
   IMPRESSION:
   1. New interval bilateral opacification at the lung bases, concerning
   for
   aspiration, pneumonia, or less likely atelectasis. Bilateral small
   pleural
   effusions.
   2. Cardiomegaly.
   3. Stable ascending aortic aneurysm measuring up to 5.8 cm.
   4. Emphysema.
   [**2109-11-2**] CT head
   IMPRESSION:
   1. Areas of low attenuation in the periventricular and subcortical
   white
   matter, likely consistent with chronic small vessel ischemic changes.
   2. Possible lytic area noted at the anterior edge of C1, partially
   evaluated
   on the current scan. Likely degenerative cyst. Correlate with MRI of
   [**2109-10-31**].
   3. No acute intracranial process.
   Microbiology: [**11-1**] sputum Cx with 1+ GNR's
   [**11-1**] urine Cx pending, BCx pending x2
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TRANSFERS, IMPAIRED
 GAIT, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 UPPER EXTREMITY FRACTURE (SHOULDER, HUMERAL, RADIAL, ULNAR, HAND)
   Assessment and Plan: 89 year old male with a history of COPD,
   hypertension, chronic kidney disease, hypertension and end stage
   congestive heart failure who was found down in his living [**Apartment Address(1) **] days
   prior to admission found to have odontoid and right wrist fractures now
   transferred from TSICU for hypoxic and hypercarbic respiratory failure.
   Hypoxic and Hypercarbic Respiratory Failure:  Pt with h/o HF and COPD,
   so likely mutifactorial. Lasix and Lisinopril were held and the pt was
   receiving IVF
s which could have tipped him over towards pulmonary
   edema although imaging doesn
t fully support this. Requires 2L O2 at
   baseline. Also seen to have bilateral opacifications at the bases.
   - Continue with Levofloxacin for CAP, today is day [**1-31**]
   - Follow speciation of initial 1+ GNR
s on sputum Cx
   - lasix 40 mg IV BID as blood pressure will tolerate
   - Captopril was held yesterday for low bp. If bp can tolerate through
   today, would add it back for afterload reduction.
   - Metoprolol 25 mg PO BID for heart failure
   - albuterol and ipratropium nebulizers for potential obstructive
   component
   - Pressure support has been weaned from 10
 5 and pt is oxygenating
   well
   - CO2
s continue to be in the high 50
s, which may be were pt lives
   chronically with h/o COPD.
   - SBT today with plans to wean and hopefully extubated
   - Will need scheduled nebs after extubation.
   Tachycardia: Sepsis vs volume depletion vs anemia with falling Hct vs
   didn
t get beta blockade on the floor. Volume depletion less likely as
   pt with good bp, has been net positive through yesterday and was not
   getting Lasix on the floor. Could be evolving septic picture as pt with
   low grade temps over yesterday and h/o temp to 102 recently. BCx
   negative to date.
   - Metoprolol 25 mg PO BID
   - Watch BCx
s and continue Levofloxacin for now, if appears to be
   getting more septic, broaden coverage
   Hypotension: Patient transiently hypotensive in the setting of
   receiving large doses of metoprolol, diltiazem, propofol and induction
   agents for intubation.  Then seen to have episode of hypotension after
   admission which has now resolved and pt is mildly hypertensive
   currently.
   - Have switched to Fentanyl Versed instead of Propofol for sedation
   - Consider small amts of fluids if hypotense with h/o CHF
   - follow blood cultures
   - Restarted on home dose of steroids
   Delerium: Unclear etiology.  Differential diagnosis includes
   medications, infection, metabolic abnormalities etc.  Urinalysis
   negative.  Blood cultures pending.  [**Month (only) 60**] have small pneumonia on xray.
   ABG intially with well compensated respiratory acidosis now with acute
   decompensation.  Morphine may be contributing.
   - Tylenol and Fentanyl for pain as needed
   - - follow blood and urine cultures
   - PRN zydis for agitation
   - Will try to wean sedation through today and see how his mental status
   is
   Right wrist fracture: Now reduced and casted.  No plans for operative
   intervention.
   - orthopedics followup
   Dens Fracture:  [**Last Name (un) 10782**] Type II dens fracture.  Non-operative.
   Currently in [**Location (un) 2420**] J Collar.
   - continue collar
   - will need orthopedics followup
   - Q4H neurologic checks
   Chronic Kidney Disease: Baseline creatinine 1.4-1.6.  Currently
   slightly worsened at 1.9 and rising.
   - Consider small amts of fluids, also if hypotensive, but need to be
   careful with h/o CHF
   - renally dose medications
   - trend creatinine
   Anemia: Baseline hematocrit in the high 30s, now in the high 20s.  No
   signs of acute blood loss currently.  Has trended down over the past 48
   hours.
   - active type and screen
 outdates [**2109-11-3**]
   - Guiac all stools
   - Trend Hct
 repeat this pm
   - iron deficient
 start PO iron through NGT and bowel regimen
   - Folate, B12 normal
   - Iron studies more consistent with ACD
   - trend hematocrit with transfusion goal < 21
   Hypertension: Transiently hypotensive in the setting of medications.
   Would likely benefit from resuming afterload reduction in the setting
   of severe MR/AR.
   - Can restart Captopril 12.5 mg TID if not having any more hypotension
   through today
   - Continue metoprolol 25 mg PO BID
   Congestive Heart Failure: Concern for exacerbation of end stage
   diastolic heart failure complicated by severe AR and moderate MR in the
   setting of IV fluid resuscitation and holding home medications.
   - lasix 40 mg IV BID
   - captopril 12.5 mg TID
   - resume metoprolol
   - I/O goal -1  liter today as bp can tolerate
   COPD: Unclear history.  Patient has a history of CO2 retention at
   baseline and uses home oxygen at 2L.  He does not take inhalers at home
   but has been prescribed them in the past.
   - albuterol and ipratropium nebulizers standing
   Gout:
   - continue home prednisone
   - holding allopurinol
   Benign Prostatic Hypertrophy:
   - holding agents while has foley in place
   FEN: No IVF, replete electrolytes, tube feeds
    Prophylaxis: Subutaneous heparin. Will start PPI today.
    Access: femoral line (will remove if hemodynamically stable after
   extubation and not requiring central access), arterial line
    Code:  Full (discussed with son)
    Communication: Patient,  son [**Name (NI) 3080**] [**Name (NI) **] [**Telephone/Fax (1) 10783**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-1**] 06:54 PM
   Multi Lumen - [**2109-11-1**] 08:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   I saw & examined the pt & was physically present with the ICU team for
   the key portions of services provided. I agree w/Dr. [**Last Name (STitle) 10784**]
s note
   above, including assessment and plan. I would add:
   89 yo male admitted for wrist and odontoid fracture. Course complicated
   by hypercarbic and hypoxic respiratory failure requiring intubation
   with TSICU-->MICU transfer [**11-1**]. Suspect inciting factor of pulmonary
   edema from skipped diuretics +/- PNA with poor reserve from
   pre-existing COPD/CHF
   24 hour events: transiently hypotensive in the context of beta-blocker
   +propofol+ captopril. Received 250cc bolus with improvt
   Rx: Lopressor
   pepcid
   Hep, LVQ, alb, SSI
   Bolus fentanyl and versed for sedation
   Exam
   I/O 1.5 liter positive
   Vent: PSV 5/5 FiO2 30; ABG 7.35/53/86
   Intubated
   [**Location (un) 2420**] J collar
   Lungs: fair air movement
   CV: sys murmur at apex, diastolic [**1-30**] at USB
   Abd +bs, soft nontender
   Ext: no edema
   WBC 9, Hct 26 (30, 2 days ago)
   Bun/Cr 35/1.9
   Imp:
   89 yo male with valvular HD/COPD /chronic aspiration admitted with
   odontoid fracture and wrist fracture; course c/b hypercarbic
   respiratory failure
   1. acute Resp failure:
   Doing well on SBT, though remain concerned that pulmonary edema could
   be an issue once extubated
   lasix 40 mg IV now then goal fluid balance negative 1 liters\; Check
   BNP
   Will move to extubate
   Continue LVQ for LLL infiltrate; Change alb/atrovent inhalers to
   scheduled nebs
   2. HTN: BP meds held due to hypotension (sedation +meds)- will
   introduce back into regimen gradually
   3. AMS: Reportedly more combative on the floor, though currently not
   requiring much sedation. Will re-assess once pt extubated, re-orient
   pt, family at bedside, assess pain
   4. wrist and odontoid fracture: No surgical intervention planned-
   5. Anemia: Hct lower today, no obvious bleeding. Will guiac stools,
   trend hct's
   Rest of plan per ICU team
   Pt is crit. Ill. Total time spent: 40 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2109-11-3**] 14:05 ------

2109-11-04 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-11-3**] 12:03 PM
 INVASIVE VENTILATION - STOP [**2109-11-3**] 12:05 PM
 EKG - At [**2109-11-3**] 01:13 PM
   tachy 130-140's
 MULTI LUMEN - STOP [**2109-11-3**] 06:00 PM
   - Tachycardic around 3pm with increased dyspnea, given extra dose of
   metoprolol and standing dose changed to 25mg TID.  Patient improved
   - PM lytes: stable with improved Cr
   - BNP 2358
   - extubated: pCO2 remained around mid 60s.  Gas actually improved on
   room air at 7:30pm.
   - Started on captopril 6.25mg daily
   - fem line pulled at 6pm.  At 7pm became acutely hypotensive to 70/20,
   first thought to be due to volume depletion.  Then found to be bleeding
   rapidly from fem line site with pooled clotted blood, appeared to be at
   least a unit.  Given 750ccs NS and 1U PRBC.
   - Held captopril tonight
   - 2am ABG on RA: 7.31/60/89.  Patient then weaned to room air as this
   is likely closer to his baseline.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-2**] 12:00 AM
   Ciprofloxacin - [**2109-11-2**] 12:03 PM
   Cefipime - [**2109-11-2**] 02:13 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2109-11-3**] 06:52 AM
   Midazolam (Versed) - [**2109-11-3**] 06:53 AM
   Furosemide (Lasix) - [**2109-11-3**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2109-11-3**] 04:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-4**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 93 (78 - 145) bpm
   BP: 138/29(64) {67/24(38) - 172/93(103)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.1 kg (admission): 66 kg
           Total In:
                                                                  1,176 mL
                                                                    318 mL
   PO:
           TF:
                                                                    116 mL
   IVF:
                                                                    720 mL
                                                                     58 mL
   Blood products:
                                                                    150 mL
                                                                    200 mL
   Total out:
                                                                  1,273 mL
                                                                    265 mL
   Urine:
                                                                  1,273 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (393 - 393) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 1%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.32/59/69/32/1
   Ve: 6.3 L/min
   PaO2 / FiO2: 6,900
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   8.9 g/dL
   121
   1.7 mg/dL
   32 mEq/L
   4.4 mEq/L
   36 mg/dL
   112 mEq/L
   147 mEq/L
   27.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2109-11-3**]  06:07 AM
                             [**2109-11-3**]  03:26 PM
                             [**2109-11-3**]  03:37 PM
                             [**2109-11-3**]  04:40 PM
                             [**2109-11-3**]  07:24 PM
                             [**2109-11-3**]  07:35 PM
                             [**2109-11-4**]  01:58 AM
                             [**2109-11-4**]  02:14 AM
                             [**2109-11-4**]  04:00 AM
                             [**2109-11-4**]  06:46 AM
   WBC
   11.4
   13.1
   Hct
   28.1
   24.5
   27.7
   Plt
   249
   231
   Cr
   1.7
   1.5
   1.7
   TCO2
   30
   34
   34
   30
   32
   32
   Glucose
   145
   114
   119
   121
   Other labs: PT / PTT / INR:14.3/64.1/1.2, CK / CKMB /
   Troponin-T:/2/0.02, Alk Phos / T Bili:/0.4, Differential-Neuts:92.5 %,
   Lymph:3.2 %, Mono:4.0 %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, LDH:196
   IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: [**11-4**] CXR: enlarged heart, improvement in congestion.
   Microbiology: [**11-1**] sputum: GNR on stain, but only commensal flora on
   culture.
   [**11-1**] blood cx: pending
   [**11-1**] urine neg.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TRANSFERS, IMPAIRED
 GAIT, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 UPPER EXTREMITY FRACTURE (SHOULDER, HUMERAL, RADIAL, ULNAR, HAND)
   Assessment and Plan: 89 year old male with a history of COPD,
   hypertension, chronic kidney disease, hypertension and end stage
   congestive heart failure who was found down in his living [**Apartment Address(1) **] days
   prior to admission found to have odontoid and right wrist fractures now
   transferred from TSICU for hypoxic and hypercarbic respiratory failure.
   Hypoxic and Hypercarbic Respiratory Failure: Improved with diuresis and
   on room air, as home sats are likely in the low 90s and similar.  On
   levofloxacin day [**3-2**] today for CAP.  Restart lasix 40mg IV BID.
   Likely multifactorial.  It appears that his heart failure medications
   have been held during this admission including his lasix and lisinopril
   while he has been receiving IVF.  Although his physical exam shows only
   mild volume overload I suspect his heart failure is playing a role.
   The patient also has a history chronic CO2 retention with mild
   emphysema at the apices on imaging.  He requries 2L oxygen at baseline
   with unclear baseline oxygen saturations.  He has been prescribed
   inhalers in the past but does not use any currently.  He also has a
   history of recurrent aspiration and has evidence of small infiltrates
   versus atelectasis on his CT chest.
   - levofloxacin 750 mg PO daily for community acquired pneumonia
   - follow sputum cultures
   - lasix 40 mg IV BID
   - will start low dose captopril for afterload reduction
   - metoprolol 25 mg PO BID for heart failure
   - albuterol and ipratropium nebulizers for potential obstructive
   component
   - wean pressure support and FiO2 with plans for SBT tomorrow and
   potential extubation
   Tachycardia:  Unclear etiology.  EKGs consistent with sinus tachycardia
   with frequent PACs. [**Month (only) 60**] be related to mild volume overload versus mild
   infection.  Given concern for congestive heart failure will resume
   patient's home beta blocker and diurese.
   - metoprolol 25 mg PO BID
   s/p femoral line site bleed: Unclear
   - Hct bumped appropriately
   Hypotension: Patient transiently hypotensive in the setting of
   receiving large doses of metoprolol, diltiazem, propofol and induction
   agents for intubation.  Now mildly hypertensive.
   - follow blood cultures
   - will switch to versed if persistent hypotension on propofol
   - if recurrent may need stress dose steroids given chronic use
   Delerium: Unclear etiology.  Differential diagnosis includes
   medications, infection, metabolic abnormalities etc.  Urinalysis
   negative.  Blood cultures pending.  [**Month (only) 60**] have small pneumonia on xray.
   ABG intially with well compensated respiratory acidosis now with acute
   decompensation.  Morphine may be contributing.
   - tylenol for pain
   - low dose fentanyl as needed for pain
   - follow blood and urine cultures
   - PRN zydis for agitation
   Right wrist fracture: Now reduced and casted.  No plans for operative
   intervention.
   - orthopedics followup
   Dens Fracture:  [**Last Name (un) 10782**] Type II dens fracture.  Non-operative.
   Currently in [**Location (un) 2420**] J Collar.
   - continue collar
   - will need orthopedics followup
   - Q4H neurologic checks
   Chronic Kidney Disease: Baseline creatinine 1.4-1.6.  Currently
   slightly worsened at 1.8.
   - renally dose medications
   - trend creatinine
   Anemia: Baseline hematocrit in the high 30s, now in the high 20s.  No
   signs of acute blood loss currently.  Has trended down over the past 48
   hours.
   - active type and screen
   - iron studies, B12, folate, hemolysis labs, reticulocyte count
   - trend hematocrit with transfusion goal < 21
   Hypertension: Very sensitive to captopril.
   Transiently hypotensive in the setting of medications. Would likely
   benefit from resuming afterload reduction in the setting of severe
   MR/AR.
   - captopril 12.5 mg TID
   - resume metoprolol 25 mg PO BID
   Congestive Heart Failure: Concern for exacerbation of end stage
   diastolic heart failure complicated by severe AR and moderate MR in the
   setting of IV fluid resuscitation and holding home medications.
   - lasix 40 mg IV BID
   - captopril 12.5 mg TID
   - resume metoprolol
   - I/O goal - 1 liter today
   COPD: Unclear history.  Patient has a history of CO2 retention at
   baseline and uses home oxygen at 2L.  He does not take inhalers at home
   but has been prescribed them in the past.
   - albuterol and ipratropium nebulizers standing
   Gout:
   - continue home prednisone
   - holding allopurinol
   Benign Prostatic Hypertrophy:
   - holding agents while has foley in place
   FEN: No IVF, replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin
   Access: femoral line (will remove if hemodynamically stable), arterial
   line
   Code:  Full (discussed with son)
   Communication: Patient,  son [**Name (NI) 3080**] [**Name (NI) **] [**Telephone/Fax (1) 10783**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-1**] 06:54 PM
   20 Gauge - [**2109-11-3**] 11:00 AM
   16 Gauge - [**2109-11-3**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2109-11-05 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxia and hypercarbia
   24 Hour Events:
 PICC LINE - START [**2109-11-4**] 10:00 AM
   - IV Lasix x1.  Then became hypernatremic, so given free water instead
   of lasix.
   - Metoprolol increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-2**] 12:03 PM
   Cefipime - [**2109-11-2**] 02:13 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-4**] 01:00 PM
   Famotidine (Pepcid) - [**2109-11-5**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-5**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 95 (75 - 114) bpm
   BP: 136/30(63) {101/19(49) - 160/41(76)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.1 kg (admission): 66 kg
             Total In:
                                                                    917 mL
                                                                  1,445 mL
   PO:
             TF:
                                                                     67 mL
                                                                    228 mL
   IVF:
                                                                    160 mL
                                                                    567 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,230 mL
                                                                    160 mL
   Urine:
                                                                  1,230 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -313 mL
                                                                  1,285 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.35/59/82/32/4
   PaO2 / FiO2: 30%
   Physical Examination
   Lying with shovel mask in place, speaking in Cantonese but not entirely
   responsive. Does not appear to be in pain. Lungs with upper airway
   breath sounds and fair air movement. S1 S2 clear with what sounds like
   systolic and slight diastolic murmur best at RUSB and LLSB. Abd soft NT
   ND, no grimacing when palpated. L arm in cast. No BLE edema.
   Labs / Radiology
   251 K/uL
   8.6 g/dL
   141 mg/dL
   1.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   50 mg/dL
   112 mEq/L
   149 mEq/L
   25.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2109-11-3**]  07:24 PM
                             [**2109-11-3**]  07:35 PM
                             [**2109-11-4**]  01:58 AM
                             [**2109-11-4**]  02:14 AM
                             [**2109-11-4**]  04:00 AM
                             [**2109-11-4**]  06:46 AM
                             [**2109-11-4**]  06:04 PM
                             [**2109-11-4**]  08:10 PM
                            [**2109-11-5**]  03:25 AM
                            [**2109-11-5**]  03:49 AM
   WBC
   11.4
   13.1
   14.3
   Hct
   24.5
   27.7
   26.4
   25.5
   Plt
   249
   231
   251
   Cr
   1.5
   1.7
   1.8
   TCO2
   30
   32
   32
   32
   34
   Glucose
   114
   119
   121
   141
   Other labs: PT / PTT / INR:14.3/64.1/1.2, CK / CKMB /
   Troponin-T:/2/0.02, Alk Phos / T Bili:/0.4, Differential-Neuts:89.6 %,
   Band:0.0 %, Lymph:4.6 %, Mono:5.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L,
   LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Imaging: [**11-4**] CXR: The size of the cardiac
   silhouette is moderately enlarged. Blunting of the left costophrenic
   sinus might suggest a small pleural effusion. There is mild-to-moderate
   retrocardiac atelectasis.
   Microbiology: [**11-1**] sputum cx: sparse commensal flora.
   [**11-1**] blood cx: pending
   [**11-1**] urine cx: neg.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TRANSFERS, IMPAIRED
 GAIT, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 UPPER EXTREMITY FRACTURE (SHOULDER, HUMERAL, RADIAL, ULNAR, HAND)
   Assessment and Plan: 89 year old male with a history of COPD,
   hypertension, chronic kidney disease, hypertension and end stage
   congestive heart failure who was found down in his living [**Apartment Address(1) **] days
   prior to admission found to have odontoid and right wrist fractures now
   transferred from TSICU for hypoxic and hypercarbic respiratory failure.
   #) Hypoxic and Hypercarbic Respiratory Failure:  Primarily caused by
   acute on chronic diastolic heart failure worsened by hypertension and
   tachycardia.  While his O2 sats are generally in the mid to high 90s,
   he has periodic drops to the 80s and is therefore being kept on 30%
   FiO2 with shovel mask.  His sats vary widely depending on if he is
   clearing his secretions, but typically improve with suctioning.  Has
   been on levofloxacin, which may be worsening his mental status.  We
   will switch to azithro/ceftriaxone instead, with a plan of 7 days.
   Sputum cultures showed just commensal flora.
   - ceftriaxone 1 gm Q24, azithromycin 500mg Q24 today day 1 of 7.
   - lasix 40 mg IV once, f/u I/O
s and PM lytes to reassess need for
   second dose.
   - keep metoprolol at 25 mg PO QID and restart captopril 6.25mg TID to
   reduce afterload.
   - albuterol and ipratropium nebulizers for potential obstructive
   component
   - titrate O2 as needed to maintain sats.
   - goal I/Os today even, so we will hold lasix for now.
   #) Hypernatremia: Likely due to diuresis and slight hypovolemia.  We
   will stop diuresing for now, give 1L of free water, and then monitor.
   - f/u PM lytes.
   #) Delerium: Has been persistently delirious with an unclear etiology.
   Differential diagnosis includes medications, infection, metabolic
   abnormalities etc.  Has had a possible pneumonia, urine negative, blood
   cx pending.  This has improved, and he seems to do best with his family
   at the bedside.
   - Tylenol first, then low dose fentanyl as needed for pain
   - repeat UA/culture and blood cultures.
   - PRN zydis for agitation
 has not been required to date.
   - Encourage OOB.
   #) Tachycardia:  Unclear etiology.  EKGs consistent with sinus
   tachycardia with frequent PACs. Given concern for congestive heart
   failure will resume patient's home beta blocker and diurese.
   - metoprolol 25 mg PO QID
   #) Right wrist fracture: Now reduced and casted.  No plans for
   operative intervention.
   - orthopedics followup
   #) Dens Fracture:  [**Last Name (un) 10782**] Type II dens fracture.  Non-operative.
   Currently in [**Location (un) 2420**] J Collar.
   - continue collar.  Ask ortho how much longer that will be necessary.
   - will need orthopedics followup
   - Q4H neurologic checks
   #) Chronic Kidney Disease: Baseline creatinine 1.4-1.6.  Currently
   slightly worse at 1.8.
   - renally dose medications
   - trend creatinine
   - goal today for I/Os is even to avoid further insult.
   #) Anemia: Baseline hematocrit in the high 30s, now in the high 20s.
   No signs of acute blood loss currently.  Has trended down over the past
   48 hours.  Appears on labs to be anemia of chronic disease.
   - active type and screen
   - trend hematocrit with transfusion goal < 21
   #) Congestive Heart Failure: Concern for exacerbation of end stage
   diastolic heart failure complicated by severe AR and moderate MR in the
   setting of IV fluid resuscitation and holding home medications.
   - lasix 40 mg IV once, then follow-up
   - stop captopril
   - metoprolol 25mg QID
   - I/O goal - 1 liter today
   #) COPD: Unclear history.  Patient has a history of CO2 retention at
   baseline and uses home oxygen at 2L.  He does not take inhalers at home
   but has been prescribed them in the past.
   - albuterol and ipratropium nebulizers standing
   #) Gout:
   - continue home prednisone
   - holding allopurinol
   #) Benign Prostatic Hypertrophy:
   - holding agents while has foley in place
   FEN: No IVF, replete electrolytes, place NG tube for tube feeds
   Prophylaxis: Subutaneous heparin and pneumo boots.
   Access: multiple PIVs, arterial line
   Code:  Full (discussed with son)
   Communication: Patient,  son [**Name (NI) 3080**] [**Name (NI) **] [**Telephone/Fax (1) 10783**]
   Disposition: pending clinical improvement, likely to floor tomorrow.
   ICU Care
   Nutrition:
   Replete (Full) - [**2109-11-4**] 08:38 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-1**] 06:54 PM
   20 Gauge - [**2109-11-3**] 11:00 AM
   PICC Line - [**2109-11-4**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2109-11-07 12:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p fall, delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ongoing secretions
   24 Hour Events:
 ULTRASOUND - At [**2109-11-6**] 04:48 PM
   rt arm
 MAGNETIC RESONANCE IMAGING - At [**2109-11-6**] 08:04 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-11-5**] 02:30 PM
   Azithromycin - [**2109-11-6**] 04:48 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-6**] 06:35 PM
   Famotidine (Pepcid) - [**2109-11-7**] 12:57 AM
   Heparin Sodium (Prophylaxis) - [**2109-11-7**] 07:43 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-11-7**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 89 (71 - 123) bpm
   BP: 145/43(75) {112/20(43) - 165/80(85)} mmHg
   RR: 22 (20 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.1 kg (admission): 66 kg
             Total In:
                                                                  2,368 mL
                                                                  1,746 mL
   PO:
             TF:
                                                                    929 mL
                                                                    735 mL
   IVF:
                                                                    479 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    770 mL
   Urine:
                                                                  2,705 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -337 mL
                                                                    977 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.41/51/74/32/5
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Swelling of dorsum of r hand - tender to touch
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, withdraws
   to tactile stimuli
   Labs / Radiology
   7.5 g/dL
   265 K/uL
   176 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   34 mg/dL
   104 mEq/L
   141 mEq/L
   23.5 %
   13.1 K/uL
        [image002.jpg]
                            [**2109-11-5**]  03:25 AM
                            [**2109-11-5**]  03:49 AM
                            [**2109-11-5**]  02:01 PM
                            [**2109-11-6**]  12:25 AM
                            [**2109-11-6**]  02:54 AM
                            [**2109-11-6**]  08:33 AM
                            [**2109-11-6**]  02:15 PM
                            [**2109-11-6**]  04:50 PM
                            [**2109-11-6**]  04:55 PM
                            [**2109-11-7**]  03:04 AM
   WBC
   14.3
   14.4
   13.1
   Hct
   25.5
   23.8
   24.4
   23.5
   Plt
   [**Telephone/Fax (3) 10815**]
   Cr
   1.8
   1.5
   1.3
   1.1
   1.1
   TCO2
   34
   32
   35
   33
   Glucose
   141
   154
   157
   176
   Other labs: PT / PTT / INR:14.3/64.1/1.2, CK / CKMB /
   Troponin-T:/2/0.02, Alk Phos / T Bili:/0.4, Differential-Neuts:89.6 %,
   Band:0.0 %, Lymph:4.6 %, Mono:5.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L,
   LDH:196 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TRANSFERS, IMPAIRED
 GAIT, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 UPPER EXTREMITY FRACTURE (SHOULDER, HUMERAL, RADIAL, ULNAR, HAND)
   89 yo man with s/p fall with C2 fx/L wrist fracture, respiratory
   failure now extubated but with ongoing delerium.
   1. Respiratory Failure: Continues to have secretions with difficulty
   clearing.  Cont azithro/CTX ([**3-2**]).
   2. C2 fracture: Cont C-collar
   3. R hand swelling: U/S negative.  Check plain film of hand/wrist as
   well.  Pull R radial a-line
   4. Delerium: MRI without acute changes
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-7**] 01:56 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-1**] 06:54 PM
   PICC Line - [**2109-11-4**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill